* C:\Users\User\Documents\LTspiceXVII\PhaseLockedLoop.asc
V1 Vcc 0 9
XU1 P001 N003 Vcc 0 N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N006 N001 Vcc 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 Bias 0 4.5
R1 P001 0 50k
R2 P001 N005 50k
R3 N003 N005 100k
R4 P002 N003 50k
C1 N001 N003 10n
M1 P002 N004 0 0 NMOS
R5 N004 N006 100k
R6 N006 Bias 51k
A1 N002 0 0 0 N010 0 N008 0 XOR
XU3 N008 P003 Vcc 0 P004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V5 P003 0 0.5
R7 N007 P004 5.1k
C2 N007 0 339n
A2 N009 P005 0 0 0 0 N010 0 MODULATOR mark=1000 space=100
V2 P005 0 1
V4 N009 0 SINE(0.5 0.5 2)
XU4 N007 N005 Vcc 0 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
A3 N002 0 N004 0 0 N002 0 0 DFLOP
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 startup
.lib UniversalOpamps2.sub
.backanno
.end
