* C:\Users\User\Documents\LTspiceXVII\VCO.asc
V1 P001 0 4.7
V2 VCC 0 9
R1 P002 P001 100k
R2 N004 P002 51k
R3 N002 N001 1000k
R4 P003 N001 20k
R5 P004 N002 500k
R6 0 P003 20k
V3 N001 0 9
M1 P004 N005 0 0 2N7002
C1 N003 N002 100n
XU1 P003 N002 VCC 0 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 P002 N003 VCC 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R7 N004 N005 10k
V4 P005 0 SINE(0 1 300)
XU3 N004 N007 N008 P006 0 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 MP_07 N006 ADG1611
V5 N006 0 12
V6 P006 0 -12
R8 N008 0 100k
R9 N007 P005 1k
C2 0 N007 1n
C3 0 N008 1n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3 startup
.lib ADG.lib
.lib UniversalOpamps2.sub
.backanno
.end
