* C:\Users\User\Documents\LTspiceXVII\VocoderEnvDetect.asc
V1 N005 0 SINE(0 0.5 100)
V2 N004 0 9
V3 N006 0 -9
XU1 0 N002 N004 N006 N003 LT1001
R1 N002 N005 5k
R2 N001 N002 10k
D1 N002 N003 1N4148
D2 N003 N001 1N4148
C1 N002 N001 100n
V4 N013 0 9
V5 N018 0 -9
XU2 0 N015 N013 N018 N009 LT1001
D5 P001 N017 BAT54
J1 N005 P002 N017 NJF
R5 P002 P003 100k
V6 P003 0 PULSE(-9 9 0.1 1m 1m 0.4 0.7)
R3 P004 P001 100k
R4 N015 P004 56k
R6 N009 P004 1500k
C2 N009 N015 47n
C3 P004 0 100n
XU3 NC_01 N011 N014 P005 N010 N012 N010 N016 HALF13700
R7 P005 N009 100k
R9 N011 N007 470
R10 N014 N007 470
R11 N008 N011 10k
R12 N010 N007 100k
V7 N012 0 9
R13 N016 0 10k
V8 N008 0 PULSE(5.5 4.5 0.004 0 0 0.004 0.008)
V9 N007 0 5
R14 P005 P006 100k
V10 P006 0 2
.model D D
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 1
.lib C:\Users\User\Downloads\LM13700_SUB.cir - Copy\LM13700_SUB.cir
.lib LTC.lib
.backanno
.end
