* C:\Users\User\Documents\LTspiceXVII\switchedCapTest.asc
V1 Vdd 0 9
V2 Vss 0 -9
V3 Clk1 0 PULSE(0 5 0 1ns 1ns {0.3*tclk} {tclk})
V5 N003 0 SINE(0 1 1000)
V4 Clk2 0 PULSE(0 5 {0.5*tclk} 1ns 1ns {0.3*tclk} {tclk})
S1 P001 N003 Clk1 0 mysw SW
S2 0 P001 Clk2 0 mysw SW
C1 N006 P001 1n
S3 0 N006 Clk2 0 mysw SW
S4 N006 N004 Clk1 0 mysw SW
C2 0 N004 100n
XU1 P002 N002 Vdd Vss N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
S5 P003 N002 Clk1 0 mysw SW
S6 0 P003 Clk2 0 mysw SW
C3 N007 P003 1n
S7 0 N007 Clk2 0 mysw SW
S8 N007 N005 Clk1 0 mysw SW
C4 0 N005 100n
XU2 P004 N001 Vdd Vss N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 P004 N005 10k
R2 P002 N004 10k
C5 P002 0 1n
C6 P004 0 1n
.tran 0.002
.model mysw SW(Ron=220 Roff=220Meg Vt=1 Vh=0.4)
.step oct param tclk 10u 1u 10
.lib UniversalOpamps2.sub
.backanno
.end
